* 1 Volt Source and one resistor
 * @Author: Donald duck tang5722917@163.com
 * @Date: 2022-09-05 16:03:02
 * @LastEditors: Donald duck tang5722917@163.com
 * @LastEditTime: 2022-09-05 16:03:11
 * @FilePath: \spice_netlist_front_end\test\01_VSource_one_resistor
 * @Description:  Base Test Circuit 01
 *                1 Volt Source and one resistor
 * Copyright (c) 2022 by Donald duck tang5722917@163.com, All Rights Reserved.
 *

V1 0 1 DC 10V
R1 0 1 10k

.OP

.control
    set filetype = ascii
.endc
